US05583135
A mixture of 2,3-dihydro-7-hydroxy-9-methoxy-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (3 g) and phosphorus oxychloride (2.2 ml) was stirred at 80° C. for 1 hour. The mixture was poured into ice-water and the precipitates were collected and washed with water to give yellow crystals of 2,3-dihydro-7-chloro-9-methoxy-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (2.8 g).

reactant | 2,3-dihydro-7-hydroxy-9-methoxy-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 3 g | OC1=C(C(N2CCOC=3C2=C1C=C(C3)OC)=O)C(=O)N3CCC1=CC=CC=C31 | C21H18N2O5
reactant | phosphorus oxychloride | 2.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,3-dihydro-7-chloro-9-methoxy-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 2.8 g | ClC1=C(C(N2CCOC=3C2=C1C=C(C3)OC)=O)C(=O)N3CCC1=CC=CC=C31 | C21H17ClN2O4
